US07855201B2
Step 2: (−)-(2R)-2,4-morpholinedicarboxylic acid, 4-(1,1-dimethylethyl) 2-ethyl ester
A mixture of 10 g of ethyl (2R)-4-benzylmorpholine-2-carboxylate, 9 g (1.05 equiv) of ditertbutyldicarbonate, and 1 g of 10% palladium on carbon catalyst in 100 mL of ethanol was shaken under 55 psi of hydrogen overnight. The mixture was filtered and concentrated under reduced pressure. Drying under vacuum gave the product as a white solid (10.5 g) suitable for the next step. Further purification could be effected by trituration with hexane: [α]D25° C.=−50° (c=1.1, MeOH); 1H NMR (400 MHz, CDCl3) 4.25 (q, 2H), 4.08 (d, 1H), 4.0 (d, 1H), 3.8 (d, 1H), 3.7 (t, 1H), 3.1 (m, 2H), 2.95 (d, 1H), 1.5 (s, 9H) 1.3 (t, 3H).

reactant | ethyl (2R)-4-benzylmorpholine-2-carboxylate | 10 g | C(C1=CC=CC=C1)N1C[C@@H](OCC1)C(=O)OCC | C14H19NO3
reactant | ditertbutyldicarbonate | 9 g, 1.05 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (−)-(2R)-2,4-morpholinedicarboxylic acid, 4-(1,1-dimethylethyl) 2-ethyl ester | 10.5 g | N1(C[C@@H](OCC1)C(=O)OCC)C(=O)OC(C)(C)C | C12H21NO5
